US08022222B2
Using the method of Example 3, Step B, 4-methylthiazol-2-amine (0.291 g, 2.55 mmol), 2-chloro-4-(o-tolylthio)pyridine (0.600 g, 2.55 mmol), potassium phosphate (0.595 g, 2.80 mmol), Pd2(dba)3 (0.117 g, 0.127 mmol), and 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.074 g, 0.127 mmol) were reacted to provide 4-methyl-N-(4-(o-tolylthio)pyridin-2-yl)thiazol-2-amine (0.401 g, 50% yield). 1H NMR (d6-DMSO) δ 11.04 (s, 1H), 8.07 (d, 1H), 7.57 (d, 1H), 7.47 (d, 2H), 7.34 (m, 1H), 6.63 (s, 1H), 6.50 (s, 1H), 6.48 (m, 1H), 2.34 (s, 3H), 2.19 (s, 3H).

reactant | 4-methylthiazol-2-amine | 2.55 mmol, 0.291 g | CC=1N=C(SC1)N | C4H6N2S
reactant | 2-chloro-4-(o-tolylthio)pyridine | 2.55 mmol, 0.600 g | ClC1=NC=CC(=C1)SC1=C(C=CC=C1)C | C12H10ClNS
reactant | potassium phosphate | 2.80 mmol, 0.595 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | Pd2(dba)3 | 0.127 mmol, 0.117 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.127 mmol, 0.074 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | 4-methyl-N-(4-(o-tolylthio)pyridin-2-yl)thiazol-2-amine | 0.401 g, 50% yield | CC=1N=C(SC1)NC1=NC=CC(=C1)SC1=C(C=CC=C1)C | C16H15N3S2
